US06949579B2
0.45 g of 2-amino-5-bromopyridine is added to 1.0 g of N-[6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, prepared in Example 56, in 50 cm3 of dioxane, 142 mg of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium, dichloromethane and 646 mg of sodium carbonate in 10 cm3 of water are added to the pale yellow solution, and the mixture is refluxed for 2 hours. The reaction medium is diluted with 50 cm3 of ethyl acetate and 50 cm3 of water, and then filtered through a sinter funnel packed with Celite. The filtrate is separated by settling and the aqueous phase is washed with 2×50 cm3 of saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.). The crude product obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3 cm), eluting with a cyclohexane/ethyl acetate gradient mixture (70/30 to 50/50 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.) to give 0.53 mg of N-[6-(6-amino-pyrid-3-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide in the form of a solid melting at 138° C.

reactant | 2-amino-5-bromopyridine | 0.45 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | N-[6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.0 g | CC1(OB(OC1(C)C)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C | C23H38BN3O4Si
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sodium carbonate | 646 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 50 cm3 | O1CCOCC1 | C4H8O2
solvent | water | 10 cm3 | O | H2O
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 50 cm3 | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 142 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[6-(6-amino-pyrid-3-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 0.53 mg | NC1=CC=C(C=N1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C22H31N5O2Si
